US09231217B2
Then, to 7.0 g of 2,3-bis(3,5-dimethylphenyl)pyrazine-1-oxide was added phosphoryl chloride, and stirring was performed at 100° C. for 1 hour. The reaction solution was poured into water and extracted with chloroform. The obtained organic layer was washed with a saturated aqueous solution of sodium bicarbonate, water, and then brine, dried with magnesium sulfate, filtered, and concentrated to give 5-chloro-2,3-bis(3,5-dimethylphenyl)pyrazine as gray powder in 90% yield.

reactant | 2,3-bis(3,5-dimethylphenyl)pyrazine-1-oxide | 7.0 g | CC=1C=C(C=C(C1)C)C1=[N+](C=CN=C1C1=CC(=CC(=C1)C)C)[O-] | C20H20N2O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 5-chloro-2,3-bis(3,5-dimethylphenyl)pyrazine | 90% yield | ClC=1N=C(C(=NC1)C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C20H19ClN2
